US07279469B2
N3-[4-(3-Diethylamino-propoxy)-3,5-dimethoxy-phenyl]-1-(2-fluorophenyl)-1H-[1,2,4]triazole-3,5-diamine:
A solution of 2-fluoro-phenylhydrazine hydrochloride (0.15 g, 0.91 mmol) and triethylamine (0.13 mL, 0.91 mmol) in dimethylacetaimde (1 mL) was stirred 0.5 h at room temperature. N-cyano-N′-(4-(3-diethylamino-propoxy)-3,5-dimethoxy-phenyl)-O-phenylisourea (0.30 g as a mixture with triethylamine-trifluoroacetic acid salt, 0.45 mmol) in dimethylacetamide (1 mL) was added and the reaction was stirred at 120° C. for 20 h. The precipitate was removed and the filtrate was washed with ether. The remaining aqueous phase was evaporated and was purified by semi-preparative HPLC to provide the title compound (0.01 g, 4% yield) as a yellow lyophilate.

reactant | 2-fluoro-phenylhydrazine hydrochloride | 0.91 mmol, 0.15 g | Cl.FC1=C(C=CC=C1)NN
reactant | triethylamine | 0.91 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | N-cyano-N′-(4-(3-diethylamino-propoxy)-3,5-dimethoxy-phenyl)-O-phenylisourea | C(#N)NC(OC1=CC=CC=C1)=NC1=CC(=C(C(=C1)OC)OCCCN(CC)CC)OC | C23H30N4O4
reactant | triethylamine-trifluoroacetic acid salt | FC(C(=O)O)(F)F.C(C)N(CC)CC
solvent | dimethylacetamide | 1 mL | CC(=O)N(C)C | C4H9NO
product | N3-[4-(3-Diethylamino-propoxy)-3,5-dimethoxy-phenyl]-1-(2-fluorophenyl)-1H-[1,2,4]triazole-3,5-diamine | 0.01 g, 4% yield | C(C)N(CCCOC1=C(C=C(C=C1OC)NC1=NN(C(=N1)N)C1=C(C=CC=C1)F)OC)CC | C23H31FN6O3
